US05527800
3-Chloro-1-(3-carbazolyl)-1-propanone
To a 90 ml solution of 5.0 g of carbazole and 4.2 g of 3-chloropropionyl chloride in nitromethane, 4.8 g of aluminum chloride was added portionwise, followed by stirring at 45° C. for 1 hour. The reaction mixture was poured over 100 ml of ice water, and the organic layer was separated and then washed by sequential additions of a 50 ml saturated aqueous sodium hydrogen carbonate solution and 50 ml of distilled water. After the mixture was dried over anhydrous sodium sulfate, the solvent was distilled off to yield a crystalline residue. The residue was collected by filtration and dried under reduced pressure to yield 4.8 g of the title compound as a light red crystal having a melting point of 148° to 151° C.

reactant | carbazole | 5.0 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 3-chloropropionyl chloride | 4.2 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminum chloride | 4.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 3-Chloro-1-(3-carbazolyl)-1-propanone | 4.8 g | ClCCC(=O)C=1C=CC=2NC3=CC=CC=C3C2C1 | C15H12ClNO
